### PR TITLE
Some lemmas

### PR DESCRIPTION
**Pull request by anlun**

### CODE REVIEW

File: HahnAcyclic.v [hunk 1]
```diff
@@ -21,6 +21,18 @@ Proof.
     rewrite t_rt_step in *; desf; eauto 10.
 Qed.
 
+Lemma acyc_simple_helper A (r1 r2: relation A):
```
Comment (vafeiadis) [inline HahnAcyclic.v]: acyclic_seq_from_union?

File: HahnEquational.v [hunk 2]
```diff
@@ -1310,3 +1337,41 @@ Lemma tot_ex X (mo : relation X) dom (TOT: is_total dom mo) a b
...
+Proof.
+  rewrite !rtE; autounfold with unfolderDb; ins; desf.
+  specialize (H x y); desf.
+  assert (D2 x /\ (x = y /\ True \/ r'⁺ x y)).
+  { edestruct H; eauto. desf; eauto. }
+  desf; eauto.
+  exfalso; eapply ACYC; edone.
+Qed.
+
+Lemma rewrite_helper A (r: relation A) (s s': A -> Prop)
```
Comment (vafeiadis) [inline HahnEquational.v]: add_dom_l

File: HahnEquational.v [hunk 3]
```diff
@@ -1310,3 +1337,41 @@ Lemma tot_ex X (mo : relation X) dom (TOT: is_total dom mo) a b
...
+  r ⨾ ⦗s⦘ ≡ ⦗s'⦘ ⨾ r ⨾ ⦗s⦘.
+Proof.
+  split; [| basic_solver].
+  arewrite (⦗s⦘ ⊆ ⦗s⦘ ⨾ ⦗s⦘) at 1.
+  basic_solver.
+  sin_rewrite IN.
+  basic_solver 12.
+Qed.
+
+Lemma eq_predicate A (P : A -> Prop) a (H : P a): eq a ⊆₁ P.
```
Comment (vafeiadis) [inline HahnEquational.v]: set_subset_eq & move to HahnSets.v

File: HahnEquational.v [hunk 4]
```diff
@@ -1310,3 +1337,41 @@ Lemma tot_ex X (mo : relation X) dom (TOT: is_total dom mo) a b
...
+Lemma seq_minus_transitive A (r r1 r2 : relation A)
+      (TR : transitive r) :
+  r1 ⨾ r2 \ r ⊆ (r1 \ r) ⨾  r2 ∪ (r1 ∩ r) ⨾  (r2 \ r).
+Proof.
+  autounfold with unfolderDb; ins; desf.
+  destruct (classic (r x z)); [|eauto].
+  right; eexists; splits; try edone; intro; eauto.
+Qed.
+
+Lemma ind_helper A (r r': relation A) (D1 D2: A -> Prop) (ACYC: acyclic r) :
```
Comment (vafeiadis) [inline HahnEquational.v]: -> HahnPath.v  &  ct_inclusion_from_rt_inclusion1  & add symmetric version
